US04362740
In 35 ml of ethyl acetate and 3.5 ml of acetic acid was dissolved 356.3 mg of 6-nitro-4',5'-dihydrospiro[benzo[b]thiophen-2(3H),3'(2'H)-furan]-3,2'-dione as obtained in Reference Example 7, and was subjected to catalytic reduction under atmospheric pressure at room temperature in the presence of 113.3 mg of 5% palladium carbon. After absorption of hydrogen stopped, the catalyst was filtered off, and the filtrate was evaporated to dryness under reduced pressure. Recrystallization of the residue from water-acetone (7:3) yielded yellow needles of 6-hydroxyamino-4',5'-dihydrospiro[benzo[b]thiophene-2(3H),3'(2'H)-furan]-3,2'-dione. Melting point: 184°-186° C.

reactant | 6-nitro-4',5'-dihydrospiro[benzo[b]thiophen-2(3H),3'(2'H)-furan]-3,2'-dione | 356.3 mg | [N+](=O)([O-])C=1C=CC2=C(SC3(C(OCC3)=O)C2=O)C1 | C11H7NO5S
solvent | ethyl acetate | 35 ml | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 3.5 ml | C(C)(=O)O | C2H4O2
catalyst | palladium carbon | 113.3 mg | [C].[Pd]
product | 6-hydroxyamino-4',5'-dihydrospiro[benzo[b]thiophene-2(3H),3'(2'H)-furan]-3,2'-dione | ONC=1C=CC2=C(SC3(C(OCC3)=O)C2=O)C1 | C11H9NO4S
